US05728651
Preparation of 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-2.4-dihydro-5-(3.4epoxybutyl)-3H- 1,2,4-triazol-3-one
To a solution of 500 mg (1.48 mmol) of 2-[2,4-dichloro-5-(2-propynyloxy)-phenyl]-2,4-dihydro-5-(3-butenyl)-3H- 1,2,4-triazol-3-one in 20 mL of dichloromethane was added 172 mg (1.63 mmol) of sodium carbonate and 970 mg of m-chloroperoxybenzoic acid (50-60%, 2.81 mmol) in an ice bath. The reaction mixture was stirred at room temperature for 24h. The mixture was filtered and the filtrate was evaporated in vacuo to give 500 mg of the title compound of Step 3 as yellow solid. The crude product was used in the following reaction without further purification. 1H NMR (CDCl3, 400 MHz) δ 11.25 (s,1H), 7.55 (s,1H), 7.2 (s,1H), 4.8 (s,2H), 3.05 (m,1H), 2.8 (t,1H), 2.8 (t,2H), 2.6 (s,1H), 2.75 (d,1H), 2.2 (m,1H), 1.8 (m,1H).

reactant | 2-[2,4-dichloro-5-(2-propynyloxy)-phenyl]-2,4-dihydro-5-(3-butenyl)-3H- 1,2,4-triazol-3-one | 1.48 mmol, 500 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C(NC1=O)CCC=C | C15H13Cl2N3O2
reactant | sodium carbonate | 1.63 mmol, 172 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | m-chloroperoxybenzoic acid | 2.81 mmol, 970 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-2.4-dihydro-5-(3.4epoxybutyl)-3H- 1,2,4-triazol-3-one | 500 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C(NC1=O)CCC1CO1 | C15H13Cl2N3O3
